US06114526
[4-[[2,4-Dioxo-1,3-thiazolidine-5yl]methyl]phenoxy]acetic Acid
To a stirred solution of ethyl [4-[[2,4-dioxo-1,3-thiazolidine-5-yl]methyl]phenoxy]acetate (110 g, 0.36 mol) in methanol (0.65 L) was added as solution of Na2CO3 (200 g, 1.88 mol) in water (0.65 L) and stirred for 5 h at 25 to 30° C. After completion of the reaction, methanol was removed under reduced pressure; water was added to the residue and was acidified with hydrochlori acid. The precipitated white solid was filtered and dired to yield the title compound (80 g, 80%). mp: 181-183° C.

reactant | ethyl [4-[[2,4-dioxo-1,3-thiazolidine-5-yl]methyl]phenoxy]acetate | 0.36 mol, 110 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)OCC)C=C1 | C14H15NO5S
reactant | Na2CO3 | 1.88 mol, 200 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 0.65 L | CO | CH4O
solvent | water | 0.65 L | O | H2O
product | [4-[[2,4-Dioxo-1,3-thiazolidine-5yl]methyl]phenoxy]acetic Acid | 80 g, 80% | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)O)C=C1 | C12H11NO5S
